US07192968B2
(±)-cis-N1,N2-Bis(benzyloxycarbonyl)-4,4-dimethoxy-1,2-cyclohexanediamine
(±)-cis-N1,N2-Bis(benzyloxycarbonyl)-4-oxo-1,2-cyclohexanediamine (3.89 g) was dissolved in a mixed solvent of methanol (15 ml) and tetrahydrofuran (15 ml), 2,2-dimethoxypropane (10.7 ml) and p-toluenesulfonic acid (187 mg) were added, and the mixture was stirred at room temperature for 3 hours. The solvent was concentrated, and a saturated aqueous solution of sodium hydrogencarbonate was added to conduct extraction with ethyl acetate. After the resultant organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to obtain the title compound (3.54 g) as a colorless amorphous solid.

reactant | (±)-cis-N1,N2-Bis(benzyloxycarbonyl)-4-oxo-1,2-cyclohexanediamine | 3.89 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CC(CC1)=O)NC(=O)OCC1=CC=CC=C1 | C22H24N2O5
reactant | p-toluenesulfonic acid | 187 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 15 ml | CO | CH4O
solvent | 2,2-dimethoxypropane | 10.7 ml | COC(C)(C)OC | C5H12O2
product | (±)-cis-N1,N2-Bis(benzyloxycarbonyl)-4,4-dimethoxy-1,2-cyclohexanediamine | 3.54 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CC(CC1)(OC)OC)NC(=O)OCC1=CC=CC=C1 | C24H30N2O6
